US08648081B2
Stir a mixture of 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester (8.1 g, 17.0 mmol) and LiOH—H2O (3.57 g, 84.9 mmol) in MeOH (64 mL) and water (16 mL) at room temperature overnight. After removal of organic solvent under vacuum, dilute the residue with ice water (80 mL). Acidify the aqueous mixture with conc. HCl to pH=1, and extract the resultant mixture with EtOAc (100 mL×3). The combined organic layers are washed brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc 1:1) to afford 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid as pale yellow solid (6.8 g, 86.4%). MS (m/z): 464 (M+1).

reactant | 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester | 17.0 mmol, 8.1 g | COC(=O)C=1SC(=C2C1CCCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C20H16Cl2F3NO3S
reactant | LiOH—H2O | 84.9 mmol, 3.57 g | O[Li].O
solvent | MeOH | 64 mL | CO | CH4O
solvent | water | 16 mL | O | H2O
product | 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 6.8 g, 86.4% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)O)CCCC2)C(F)(F)F | C19H14Cl2F3NO3S
